US06034239
Ethyl (E)-3-(2,3-dihydrobenzofuran-5-yl)-2-propenoate
60% sodium hydride (3.39 g, 84.6 mmols) was added to a tetrahydrofuran (150 ml) solution of triethyl phosphonoacetate (19.0 g, 84.6 mmols) while cooling with ice, and the mixture was stirred for 20 minutes. To this was dropwise added a tetrahydrofuran (15 ml) solution of 2,3-dihydrobenzofuran-5-carbaldehyde (11.4 g, 76.9 mmols) and stirred further for 1 hour. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was washed with a saturated saline solution, then dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified through silica-gel column chromatography (hexane/ethyl acetate=from 95/5 to 9/1) to obtain 14.7 g (yield: 88%) of the target compound. This was oily.

reactant | sodium hydride | 84.6 mmols, 3.39 g | [H-].[Na+]
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | 2,3-dihydrobenzofuran-5-carbaldehyde | 76.9 mmols, 11.4 g | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
reactant | Water | O | H2O
product | Ethyl (E)-3-(2,3-dihydrobenzofuran-5-yl)-2-propenoate | 14.7 g, yield: 88% | O1CCC2=C1C=CC(=C2)/C=C/C(=O)OCC | C13H14O3
